US07919506B2
Step B: Preparation of (2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyloxy)(tert-butyl)dimethylsilane
To a solution of (2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)-phenyl)-(cyclohexyl)-methanol (1.25 g, 3.11 mmol) in THF (5 mL) at 0° C. was added sodium hydride (385 mg, 9.6 mmol). The mixture was stirred at room temperature for 1 hour, cooled to 0° C. and methyl iodide (1.0 mL, 16 mmol) was added. The mixture was stirred at room temperature overnight. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography over 25+S Biotage silica column (eluted with 0-5% ethyl acetate in heptane) to afford the title compound as a colorless oil (1.14 g, 88%). 1H NMR (400 MHz, CDCl3) δ ppm 0.12 (s, 6H) 0.94-0.96 (m, 9H) 0.98-1.29 (m, 6H) 1.54-1.59 (m, 1H) 1.61-1.67 (m, 2H) 1.71-1.79 (m, 1H) 2.00 (d, J=12.03 Hz, 1H) 3.13 (s, 3H) 4.08 (d, J=7.47 Hz, 1H) 4.71 (d, J=13.69 Hz, 1H) 4.85 (d, J=13.69 Hz, 1H) 7.44 (d, J=8.30 Hz, 1H) 7.52 (d, J=7.88 Hz, 1H) 7.76 (s, 1H).

reactant | (2-((tert-butyldimethylsilyloxy)methyl)-4-(trifluoromethyl)-phenyl)-(cyclohexyl)-methanol | 3.11 mmol, 1.25 g | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)C(F)(F)F)C(O)C1CCCCC1 | C21H33F3O2Si
reactant | sodium hydride | 9.6 mmol, 385 mg | [H-].[Na+]
reactant | methyl iodide | 16 mmol, 1.0 mL | CI | CH3I
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-(cyclohexyl(methoxy)methyl)-5-(trifluoromethyl)benzyloxy)(tert-butyl)dimethylsilane | 1.14 g, 88% | C1(CCCCC1)C(C1=C(CO[Si](C)(C)C(C)(C)C)C=C(C=C1)C(F)(F)F)OC | C22H35F3O2Si
